US08106190B2
4-Chloro-2-[(2-hydroxyethyl)amino]-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide was dissolved in tetrahydrofuran, diisopropylethylamine and methanesulfonyl chloride were added, followed by stirring at room temperature for 3 hours. By post-treating the reaction liquid, 2-({5-chloro-2-[(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)carbamoyl]phenyl}amino)ethyl methanesulfonate was obtained.

reactant | 4-Chloro-2-[(2-hydroxyethyl)amino]-N-(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)benzamide | ClC1=CC(=C(C(=O)NC2=CC=C3CCC(N(C3=C2)C)=O)C=C1)NCCO | C19H20ClN3O3
reactant | diisopropylethylamine | C(C)(C)N(CC)C(C)C | C8H19N
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 2-({5-chloro-2-[(1-methyl-2-oxo-1,2,3,4-tetrahydroquinolin-7-yl)carbamoyl]phenyl}amino)ethyl methanesulfonate | CS(=O)(=O)OCCNC1=C(C=CC(=C1)Cl)C(NC1=CC=C2CCC(N(C2=C1)C)=O)=O | C20H22ClN3O5S
